US06423869B1
(S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetrahydroxy-5-(L-seryl)aminohexanoyl]amino-3-phenylpropionic acid
To diphenylmethyl (S)-3-[(2S,3R,4R,5S)-5-(O-tert-butyl-L-seryl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionate (300 mg) was added 4N hydrogen chloride solution in ethyl acetate (10 ml) and the mixture was stirred at room temperature for 1.5 hours. Removal of the organic solvent gave a residue, which was extracted with water. The aqueous layer was washed with diethylether and concentrated under reduced pressure. The residue was recrystallized from methanol-diethylether to afford the title compound (208 mg).

reactant | diphenylmethyl (S)-3-[(2S,3R,4R,5S)-5-(O-tert-butyl-L-seryl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionate | 300 mg | C(C)(C)(C)OC[C@H](N)C(=O)N[C@H]([C@H]([C@H]([C@@H](C(=O)N[C@@H](CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)O)O)O)CO | C35H45N3O9
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | (S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetrahydroxy-5-(L-seryl)aminohexanoyl]amino-3-phenylpropionic acid | 208 mg | O[C@H](C(=O)N[C@@H](CC(=O)O)C1=CC=CC=C1)[C@@H]([C@@H]([C@H](CO)NC([C@@H](N)CO)=O)O)O | C18H27N3O9
